US04104389
2,3-methylenedioxy-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxylic acid
A mixture of 2.00g (10.4 mmol) of methyl 2-amino-4,5-methylenedioxybenzoate, 1.67g (10.4 mmol) of 2-chloronicotinic acid and 50mg of KI was heated at 170° for 1 hour. The fusion or melt gradually solidified to an orange cake. The solid material was heated in boiling methanol (250 ml) and then filtered to yield 1.60g of crude product, mp. 273°-280° dec. The analytical sample was obtained by recrystallization from DMF, mp. 300°-304° dec.

reactant | methyl 2-amino-4,5-methylenedioxybenzoate | 10.4 mmol, 2.00g | NC1=C(C(=O)OC)C=C2C(=C1)OCO2 | C9H9NO4
reactant | 2-chloronicotinic acid | 10.4 mmol, 1.67g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | methanol | 250 ml | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,3-methylenedioxy-11-oxo-11H-pyrido[2,1-b]quinazoline-6-carboxylic acid | C1OC=2C=C3C(N4C(=NC3=CC2O1)C(=CC=C4)C(=O)O)=O | C14H8N2O5
